US08222254B2
A solution of ethyl 3-[4-(2-methoxyphenyl)piperazin-1-yl]butanoate D11 (2.75 g, 8.97 mmol) and hydrazine monohydrate (2.7 g, 53.85 mmol) in ethanol (40 mL) was refluxed for 48 hrs. The solvent was evaporated under reduced pressure, toluene (50 mL) was added and the solvent was evaporated and the resulting light yellow oil was triturated with 50% AcOEt in hexane (10 mL). The resulting white solid was filtered, washed with hexane and dried to afford 2 g (76%) 3-[4-(2-methoxyphenyl)piperazin-1-yl]butanohydrazide D12.

reactant | ethyl 3-[4-(2-methoxyphenyl)piperazin-1-yl]butanoate | COC1=C(C=CC=C1)N1CCN(CC1)C(CC(=O)OCC)C | C17H26N2O3
reactant | hydrazine monohydrate | 53.85 mmol, 2.7 g | O.NN
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 3-[4-(2-methoxyphenyl)piperazin-1-yl]butanohydrazide | 2 g, 76% | COC1=C(C=CC=C1)N1CCN(CC1)C(CC(=O)NN)C | C15H24N4O2
